US07989454B2
4-(2-(2-Carboxy-ethyl)-3-{6-[3-(piperidine-1-carbonyl)-5-thiophen-3-yl-phenoxy]-hexyl}-phenoxy)-butyric acid
The title compound was prepared by the same method as 4-{2-(2-carboxy-ethyl)-3-[6-(3-dimethylcarbamoyl-5-thiophen-3-yl-phenoxy)-hexyl]-phenoxy}-butyric acid starting from 3-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-5-thiophen-3-yl-benzoic acid and piperidine.

reactant | 4-{2-(2-carboxy-ethyl)-3-[6-(3-dimethylcarbamoyl-5-thiophen-3-yl-phenoxy)-hexyl]-phenoxy}-butyric acid | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCCOC1=CC(=CC(=C1)C1=CSC=C1)C(N(C)C)=O | C32H39NO7S
reactant | 3-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-5-thiophen-3-yl-benzoic acid | C(C)OC(=O)CCC1=C(C=CC=C1OCCCC(=O)OCC)CCCCCCOC=1C=C(C(=O)O)C=C(C1)C1=CSC=C1 | C34H42O8S
reactant | piperidine | N1CCCCC1 | C5H11N
product | 4-(2-(2-Carboxy-ethyl)-3-{6-[3-(piperidine-1-carbonyl)-5-thiophen-3-yl-phenoxy]-hexyl}-phenoxy)-butyric acid | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCCOC1=CC(=CC(=C1)C1=CSC=C1)C(=O)N1CCCCC1 | C35H43NO7S
